US05559266
ii) 1-(Hexyloxycarbonyloxy)ethyl 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate
1-Chloroethyl hexyl carbonate (0.47 g, 2.3 mmol) was added at room temperature to a solution of potassium 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate (1.51 g, 2.3 mmol) and sodium iodide (0.036 g, 0.24 mmol) in dry DMF (12 ml). After stirring at 60° C. for 3 hours and at room temperature for 18 hours the solvent was removed at reduced pressure. The residue was suspended in chloroform (20 ml) and washed three times with a saturated sodium hydrogen carbonate solution and finally twice with water. After drying with magnesium sulfate the solution was evaporated to dryness. Yield: 0.88 g, Purity by HPLC: 95.2% 1H-NMR (DMSO-d6); delta=0.86 (CH2CH3); 1.22-1.36 (CH2CH2CH2CH3); 1.62 (OCH2CH2); 1.64 (CHCH3); 1.66 (NCH3COCH3); 2.04 (NHCOCH3); 2.95 (NCH3); 4.16 (OCH2); 6.96 (CH); 10.11 ppm (NH). FAB/MS: 801 ((M+H)+).

reactant | 1-Chloroethyl hexyl carbonate | 2.3 mmol, 0.47 g | C(OC(C)Cl)(OCCCCCC)=O | C9H17ClO3
reactant | potassium 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate | 2.3 mmol, 1.51 g | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)[O-])I)N(C)C(C)=O)I.[K+]
reactant | sodium iodide | 0.24 mmol, 0.036 g | [I-].[Na+]
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | 1-(Hexyloxycarbonyloxy)ethyl 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)OC(C)OC(=O)OCCCCCC)I)N(C)C(C)=O)I | C21H27I3N2O7
